US07105507B2
(RS)-Methyl α-Methyl-3,5-bis(trifluoromethyl)benzeneacetate
An aqueous slurry of palladium on carbon (50 mg) was added to a solution of methyl 2-[3,5-bis(trifluoromethyl)phenyl]-2-propenoate (Description 2, 1.0 g, 3.4 mmol) in ethanol (40 mL) and the mixture was shaken under an atmosphere of hydrogen (50 psi) for 1 hour. The mixture was filtered and the solvent was evaporated under reduced pressure to give the title compound as a colorless oil (0.97 g, 95%). 1H NMR (360 MHz, CDCl3) δ 1.57 (3H, d, J 7.2 Hz), 3.71 (3H, s), 3.86 (1H, q, J 7.2 Hz), 7.76 (2H, s) and 7.79 (1H, s).

reactant | methyl 2-[3,5-bis(trifluoromethyl)phenyl]-2-propenoate | 3.4 mmol, 1.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)OC)=C)(F)F | C12H8F6O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (RS)-Methyl α-Methyl-3,5-bis(trifluoromethyl)benzeneacetate | 0.97 g, 95% | CC(C(=O)OC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C12H10F6O2
